US09029374B2
The 8-(1-(tert-butylsulfinylimino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide was diluted in DCM (35 mL) and MeOH (35 mL), acetic acid (4.6 mL, 80.4 mmol) and sodium cyanotrihydroborate (1.9 g, 30.2 mmol) was added at −15° C. The resulting mixture was stirred at −15° C. for 5 hrs then allowed to warm to 0° C. A sat. sol. of Na2CO3 was added at 0° C. until pH˜8-9 and extracted with DCM (×2). The organic phase was washed with brine, dried over magnesium sulfate and concentrated. The crude product was purified by flash chromatography on silica gel (column SiO2, 15-40 μm-150 g Merck) eluting with 5 to 15% EtOH in DCM. The fractions containing impure product were concentrated down and repurified using the same system. The fractions containing pure 8-(1-((R)-1,1-dimethylethylsulfinamido)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide were combined and the solvent was evaporated to dryness to afford 2.48 g, (5.52 mmol, 54.9%) as a white foam. The fractions containing a mixture of diastereoisomers were combined, concentrated and purified by preparative HPLC on a Waters X-Bridge system. The fractions containing the desired compound were evaporated to dryness to afford a further crop of 8-(1-((R)-1,1-dimethylethylsulfinamido)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (0.25 g, 0.556 mmol, 5.53%) as a white foam. These 2 batches (2.48 g) and (0.25 g) were combined to give 8-(1-((R)-1,1-dimethylethylsulfinamido)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (2.73 g, 60%, diastereomeric excess >95%). Mass Spectrum: M+H+ 450.

reactant | 8-(1-(tert-butylsulfinylimino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | C(C)(C)(C)S(=O)N=C(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C22H29N3O5S
reactant | acetic acid | 80.4 mmol, 4.6 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanotrihydroborate | 30.2 mmol, 1.9 g | [B-]C#N.[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 35 mL | CO | CH4O
product | 8-(1-((R)-1,1-dimethylethylsulfinamido)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 0.556 mmol, 0.25 g, 5.53% | CC(C)([S@@](=O)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C)C | C22H31N3O5S
